US06897231B2
E. 3-(4-Methoxyphenyl)-1H-indazole-5-carbonitrile
A mixture of 251 mg (0.753 mmol) of 3-(4-methoxyphenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile, 5.0 mL of dioxane, and 5.0 mL of 6.0 N aq. HCl was heated at 65° C. for 22 h. The reaction mixture was added to a mixture of 10.0 mL of H2O and 20.0 mL of EtOAc with stirring. The layers were separated and the aqueous layer was extracted with EtOAc. The combined organic layers were added to 60 mL of sat. aq. NaHCO3 with rapid stirring. The layers were separated, and the organic layer was washed with sat. aq. NaHCO3, and dried (Na2SO4). Purification of the crude material by silica gel chromatography using 30-50% EtOAc in hexanes afforded the title compound (129 mg, 71% yield): ES-MS (m/z) 250 [M+1]+.

reactant | 3-(4-methoxyphenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile | 0.753 mmol, 251 mg | COC1=CC=C(C=C1)C1=NN(C2=CC=C(C=C12)C#N)C1OCCCC1 | C20H19N3O2
reactant | dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
reactant | HCl | 6.0 N, 5.0 mL | Cl | ClH
reactant | H2O | 10.0 mL | O | H2O
solvent | EtOAc | 20.0 mL | CCOC(=O)C | C4H8O2
product | 3-(4-Methoxyphenyl)-1H-indazole-5-carbonitrile | 129 mg, 71% yield | COC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C#N | C15H11N3O
